US05071843
(R)-N-(p-Nitrobenzyloxycarbonyl)-3-mercaptopyrrolidine (25*)
N,N-Diisopropylethylamine 496 l, 2.85 mmol) was added to a suspension of mercaptoamine hydrochloride 7* (173 mg, 1.24 mmol) in anhydrous MeCN (0.93 ml) and the resulting mixture was stirred under a N2 atmosphere with ice bath cooling for 5 minutes. Chloromethyl silane (204 l, 1.61 mmol) was added and the mixture was stirred at 0° for 10 minutes. A solution of p-nitrobenzyl chloroformate (267 mg, 1.24 mmol) in MeCN (0.31 ml) and more N,N-diisopropylethylamine (216 l, 1.24 mmol) were added and the resulting mixture was stirred at 0° for 30 minutes and at room temperature for 60 minutes. The mixture was diluted with EtOAc, washed with H2O, 1N HCl, 5% aq. NaHCO3, and brine, dried with MgSO4, filtered and evaporated i.v., to a pale yellow oil. The crude product was chromatographed on a EM silica gel 60 column (20 g) that was eluted with 2:1 hexane-ethyl acetate at a rate of 8 ml fractions/3.5 minutes. Fractions 16-22 gave the product 25* (198 mg) as a pale yellow oil which crystallized to an off-white solid on storage in a refrigeration.

reactant | N,N-Diisopropylethylamine | 2.85 mmol, 496 l | C(C)(C)N(C(C)C)CC | C8H19N
reactant | mercaptoamine hydrochloride | Cl.SN
reactant | Chloromethyl silane | 1.61 mmol, 204 l | ClC[SiH3] | CH5ClSi
reactant | p-nitrobenzyl chloroformate | 1.24 mmol, 267 mg | ClC(=O)OCC1=CC=C(C=C1)[N+](=O)[O-] | C8H6ClNO4
reactant | N,N-diisopropylethylamine | 1.24 mmol, 216 l | C(C)(C)N(C(C)C)CC | C8H19N
solvent | MeCN | 0.93 ml | CC#N | C2H3N
solvent | MeCN | 0.31 ml | CC#N | C2H3N
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | (R)-N-(p-Nitrobenzyloxycarbonyl)-3-mercaptopyrrolidine | [N+](=O)([O-])C1=CC=C(COC(=O)N2C[C@@H](CC2)S)C=C1 | C12H14N2O4S
